US07737166B2
2-Tert-butyl-5-methyl-7-(3-dimethylaminoazetidin-1-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile (#15)
Aqueous 36% formaldehyde solution (205 μl, 2.75 mmol) was added to a methanol (4 ml) solution of 2-tert-butyl-5-methyl-7-(3-methylaminoazetidin-1-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-73) (103 mg, 275 μmol), followed by cooling at 0° C. Sodium cyanoborohydride (34.6 mg, 550 μmol) and acetic acid (40.9 μl, 715 μmol) were added, followed by stirring at room temperature for 20 minutes. Aqueous 10% sodium carbonate solution and saturated brine were added to the reaction liquid, and this was extracted with ethyl acetate and chloroform. The organic layers were combined, dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=200:1), again purified by silica gel column chromatography (dichloromethane:ethyl acetate=1:1) to obtain the entitled compound (94 mg, 88%) as a colorless solid.

reactant | formaldehyde | 2.75 mmol, 205 μl | C=O | CH2O
reactant | 2-tert-butyl-5-methyl-7-(3-methylaminoazetidin-1-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile | 275 μmol, 103 mg | C(C)(C)(C)C=1OC=2C(N1)=C(C(=C(C2N2CC(C2)NC)C2=CC=CC=C2)C)C#N | C23H26N4O
reactant | Sodium cyanoborohydride | 550 μmol, 34.6 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 715 μmol, 40.9 μl | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | brine | [Cl-].[Na+].O
solvent | methanol | 4 ml | CO | CH4O
product | 2-Tert-butyl-5-methyl-7-(3-dimethylaminoazetidin-1-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile | 94 mg, 88% | C(C)(C)(C)C=1OC=2C(N1)=C(C(=C(C2N2CC(C2)N(C)C)C2=CC=CC=C2)C)C#N | C24H28N4O
